US07968573B2
To a mixture of 17.2 g of 3-methyl-2-butanone, 27.1 g of diethyl oxalate and 130 ml of ethanol was added 95 ml of sodium ethoxide (20% ethanol solution), and the resulting mixture was stirred at 60° C. for 5 hours. After allowed to cool to room temperature, a deposited precipitate was collected by filtration and washed with ethanol. The filter cake was partitioned between 2N hydrochloric acid and methyl t-butyl ether. The organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 28.8 g of ethyl 4-hydroxy-5-methyl-2-oxo-3-hexenoate of the formula:

reactant | 3-methyl-2-butanone | 17.2 g | CC(C(C)=O)C | C5H10O
reactant | diethyl oxalate | 27.1 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 95 ml | [O-]CC.[Na+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | ethyl 4-hydroxy-5-methyl-2-oxo-3-hexenoate | 28.8 g | OC(=CC(C(=O)OCC)=O)C(C)C | C9H14O4
